US04752645
(D) 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-(2-propenyl)-6-(trifluoromethyl)-2H-1-benzazepin-2-one
α-(2-Propenyl)-[2-(2-amino-6-trifluoromethylphenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (9.03 g; 19.4 mmole) and a 25% (by weight) sodium methoxide in methanol solution (20.5 ml; 89.5 mmole; d=0.945; 4.6 eq.) in methanol (100 ml) and dry dimethylformamide (100 ml) were refluxed (~95° C. for four hours. 1N Hydrochloric acid was added with stirring, producing a precipitate that was collected by suction-filtration, washed with water (three times) and dried in vacuo giving ~10 g of the title compound as a solid. The "crude" material was used "as is".

reactant | α-(2-Propenyl)-[2-(2-amino-6-trifluoromethylphenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 19.4 mmole, 9.03 g | C(C=C)C(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC=C1C(F)(F)F)N)C1=CC=C(C=C1)OC | C24H26F3NO5
reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 89.5 mmole, 20.5 ml, 4.6 eq. | CO | CH4O
product | 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-(2-propenyl)-6-(trifluoromethyl)-2H-1-benzazepin-2-one | ~10 g | COC(=O)C1(C(NC2=C(CC1C1=C(C=CC=C1)OC)C(=CC=C2)C(F)(F)F)=O)CC=C | C23H22F3NO4
